US06051722
36.8 g (184.1 mmols) of N-ethyl-4-bromoaniline, 48.1 ml (1.5-fold equivalent weight) of N,N-diisopropylethylamine and 28.9 ml (1.2 equivalent) of 6-bromohexanol were mixed, and the mixture obtained was heated at 110° C. for 14 hours in an atmosphere of argon. Water was added to the reaction solution obtained, which was then extracted with ethyl acetate. The organic layer obtained was dried with anhydrous magnesium sulfate and then concentrated. The residue thus obtained was heated under reduced pressure (160° C./0.3 torr), and the components distilled out were removed to obtain 55.6 g of crude N-ethyl-N-(6-hydroxyhexyl)-4-bromoaniline (yield: 100%; a dark-brown oily liquid).

reactant | N-ethyl-4-bromoaniline | 184.1 mmols, 36.8 g | C(C)NC1=CC=C(C=C1)Br | C8H10BrN
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-bromohexanol | 28.9 ml, 1.2 equivalent | BrCCCCCCO | C6H13BrO
solvent | Water | O | H2O
product | N-ethyl-N-(6-hydroxyhexyl)-4-bromoaniline | 55.6 g, yield: 100% | C(C)N(C1=CC=C(C=C1)Br)CCCCCCO | C14H22BrNO
